US04010166
To the stirred solution of 15.6 g of N-benzyl-3-hydroxy-3,3-diphenylpropylamine in 7.0 g of di-isopropylethylamine and 150 ml of methylene chloride, that of 5.88 g of chloroacetyl chloride in 50 ml of methylene chloride is added dropwise while stirring and cooling with an ice-bath. Thereupon the solution is stirred for 15 minutes at 0°-5° and washed successively with N hydrochloric acid, 10% aqueous sodium bicarbonate and finally with saturated aqueous sodium chloride. The organic layer is separated, dried, filtered and evaporated, to yield the N-benzyl-N-chloroacetyl-3-hydroxy-3,3-diphenylpropylamine showing in the I.R. spectrum a strong band at 1640 cm-1.

reactant | N-benzyl-3-hydroxy-3,3-diphenylpropylamine | 15.6 g | C(C1=CC=CC=C1)NCCC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C22H23NO
reactant | chloroacetyl chloride | 5.88 g | ClCC(=O)Cl | C2H2Cl2O
solvent | di-isopropylethylamine | 7.0 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-chloroacetyl-3-hydroxy-3,3-diphenylpropylamine | C(C1=CC=CC=C1)N(C(CCl)=O)CCC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C24H24ClNO2
